US04649181
1,4-bis-(2',4'-diglycidyloxybenzoyl)-butane
18.16 g (0.055 mole) of 1,4-bis-(2',4'-dihydroxybenzoyl)-butane, 86.84 g (0.938 mole) of epichlorohydrin and 0.97 g of 50% aqueous tetramethylammonium chloride solution are initially placed in a 350 ml sulfonation flask equipped with a stirrer, a thermometer, a condenser, a dropping funnel and a water separator, and are heated at 105°-110° C. After a reaction time of 4 hours the reaction mixture is cooled to 60° C.; 20.21 g (0.253 mole) of 50% aqueous sodium hydroxide solution are then added with simultaneous removal of water from the system. The resulting suspension is treated with water, and the organic phase is washed with water, dried over sodium sulphate and concentrated. This gives 28.62 g (93.84% of theory) of a red, viscous resin.

reactant | 1,4-bis-(2',4'-dihydroxybenzoyl)-butane | 0.055 mole, 18.16 g | OC1=C(C(=O)CCCCC(C2=C(C=C(C=C2)O)O)=O)C=CC(=C1)O | C18H18O6
reactant | epichlorohydrin | 0.938 mole, 86.84 g | C(Cl)C1CO1 | C3H5ClO
reactant | sodium hydroxide | 0.253 mole, 20.21 g | [OH-].[Na+]
reactant | water | O | H2O
catalyst | tetramethylammonium chloride | 0.97 g | [Cl-].C[N+](C)(C)C
product | 1,4-bis-(2',4'-diglycidyloxybenzoyl)-butane | C(C1CO1)OC1=C(C(=O)CCCCC(C2=C(C=C(C=C2)OCC2CO2)OCC2CO2)=O)C=CC(=C1)OCC1CO1 | C30H34O10
